US05922880
A mixture of 12.6 g of 1,3-propanediol and 100 ml of N,N-dimethylformamide was stirred under a nitrogen stream, to which 3.30 g of an oily mixture containing 60% sodium hydride was added in small portions at room temperature over 30 minutes. After further stirring continued at room temperature for 1 hour, 20 ml of a DMF solution of 10.0 g of 2-chloro-5-trifluoromethylpyridine was added dropwise over 40 minutes. After further stirring continued under a nitrogen stream at room temperature overnight, 100 ml of about 2N diluted hydrochloric acid was added over 15 minutes to stop the reaction. The reaction mixture was extracted twice with toluene at a total volume of 500 ml. The combined toluene layer was successively washed with diluted hydrochloric acid and aqueous sodium bicarbonate solution, dried with magnesium sulfate, and concentrated to obtain an oily product. The oily product was dissolved in 300 ml of hexane by heating, followed by recrystallization, which afforded 5.3 g of 2-(3-hydroxypropyloxy)-5-trifluoromethylpyridine as almost pure crystals (44% yield), m.p. 46.6° C.

reactant | 1,3-propanediol | 12.6 g | C(CCO)O | C3H8O2
reactant | sodium hydride | [H-].[Na+]
reactant | 2-chloro-5-trifluoromethylpyridine | 10.0 g | ClC1=NC=C(C=C1)C(F)(F)F | C6H3ClF3N
reactant | hydrochloric acid | about 2N, 100 ml | Cl | ClH
solvent | hexane | 300 ml | CCCCCC | C6H14
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
solvent | N,N-dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 2-(3-hydroxypropyloxy)-5-trifluoromethylpyridine | 5.3 g | OCCCOC1=NC=C(C=C1)C(F)(F)F | C9H10F3NO2
